US07585886B2
A mixture of 1.16 g of ethyl 2-morpholin-4-yl-4-nitrobenzoate, 1.1 g of ammonium chloride, 1.0 g of reduced iron and 14 ml of ethanol-water (5:2) mixed solvent was stirred at 80° C. for 4Hours. The reaction solution was filtered while hot, and the white crystals precipitated after spontaneous cooling were collected by filtration to obtain 493 mg of ethyl 4-amino-2-morpholin-4-ylbenzoate. EP: 251.

reactant | ethyl 2-morpholin-4-yl-4-nitrobenzoate | 1.16 g | N1(CCOCC1)C1=C(C(=O)OCC)C=CC(=C1)[N+](=O)[O-] | C13H16N2O5
reactant | ammonium chloride | 1.1 g | [Cl-].[NH4+]
solvent | ethanol water | 14 ml | C(C)O.O
product | ethyl 4-amino-2-morpholin-4-ylbenzoate | 493 mg | NC1=CC(=C(C(=O)OCC)C=C1)N1CCOCC1 | C13H18N2O3
